US20010041707A1
To a well stirred solution of (+)-6-(3,4-difluorophenyl) -1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methyl-1-[( 4-nitrophenyloxy)carbonyl]pyrimidine (1.5 mmol, 0.66 g) in 5 mL of chloroform was added a solution of bromine (1.5 mmol, 0.09 mL) in 3 mL of chloroform at 0° C. and the solution was allowed to attain room temperature over 1.5 h. The solvent was removed in vacuo and the residue was again dissolved in CHCl3, (20 mL) and washed with brine. The organic layer was separated, dried over Na2SO4, filtered and the solvent was removed in vacuo to get 0.81 g of (+)-6-(3,4-difluorophenyl)-1,6-dihydro-2-oxo-5-methoxycarbonyl-4-bromomethyl-1-[(4-nitrophenyloxy)carbonyl]pyrimidine as a yellow foam. It was used in the next step without any purification. 1H NMR δ3.75 (s, 3 H), 4.67 (ABq, dA=4.56, dB=4.78, J=10.8 Hz, 2 H), 6.35 (s, 1 H), 7.09-7.19 (m, 4 H), 7.37 (d, J=9.0 Hz, 2 H), 8.27 (d, J=9.0 Hz, 2 H)

reactant | (+)-6-(3,4-difluorophenyl) -1,6-dihydro-2-methoxy-5-methoxycarbonyl-4-methyl-1-[( 4-nitrophenyloxy)carbonyl]pyrimidine | 1.5 mmol, 0.66 g | FC=1C=C(C=CC1F)C1C(=C(N=C(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C)C(=O)OC | C21H17F2N3O7
reactant | bromine | 1.5 mmol, 0.09 mL | BrBr | Br2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | (+)-6-(3,4-difluorophenyl)-1,6-dihydro-2-oxo-5-methoxycarbonyl-4-bromomethyl-1-[(4-nitrophenyloxy)carbonyl]pyrimidine | 0.81 g | FC=1C=C(C=CC1F)C1C(=C(NC(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O)CBr)C(=O)OC | C20H14BrF2N3O7
